US06040455
Synthesis of 5-n-octylsulfonyl-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole demonstrating the yield advantages of step 2
To a 500-mL round-bottom flask are charged 30 g (0.062 mol) of 5-n-octylthio-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole, 35 g (0.28 mol) of xylene, 6.4 g (0.12 mol) of formic acid and 0.21 g (0.0006 mol) of sodium tungstate dihydrate. The reaction mixture is heated to 50° C. and 19 g (0.28 mol) of 50% hydrogen peroxide is then added dropwise over a one-hour period such that the reaction temperature remains between 70-80° C. After holding at this temperature for two hours, 100 g of water and 100 g of xylene are added. The aqueous layer is removed and the xylene phase is washed once with 10% aqueous sodium sulfite solution, 10% aqueous potassium carbonate solution, 10% aqueous sodium chloride solution and water. Xylene is partially stripped under vacuum and 50 g of methanol are added. The yellow solution is cooled to 0-5° C. and filtered after crystallization occurs. The wetcake is washed with 100 g of cold methanol and dried to a constant weight. The title compound is obtained as yellow needles in a yield of 30.1 g (97%). The structure of the product is verified by 1HNMR and mass spectroscopy.

reactant | 5-n-octylthio-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole | 0.062 mol, 30 g | C(CCCCCCC)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O)C=C1 | C28H41N3OS
reactant | formic acid | 0.12 mol, 6.4 g | C(=O)O | CH2O2
reactant | hydrogen peroxide | 0.28 mol, 19 g | OO | H2O2
reactant | water | 100 g | O | H2O
catalyst | sodium tungstate dihydrate | 0.0006 mol, 0.21 g | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
solvent | xylene | 100 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 0.28 mol, 35 g | C=1(C(=CC=CC1)C)C | C8H10
product | 5-n-octylsulfonyl-2-(2-hydroxy-3,5-di-tert-butylphenyl)-2H-benzotriazole | C(CCCCCCC)S(=O)(=O)C1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)O)C=C1 | C28H41N3O3S
